US05498741
Preparation of monoethyl mono-4-methylphenyl phenylphosphonite
18.8 g (0.6 mol) of diethyl phenylphosphonite and 64.9 g (0.6 mol) of p-cresol were mixed and heated at 300 to 500 mbar to 130° C. Ethanol distilled off via a small column. The temperature was increased to 165° C. stepwise, and the vacuum was simultaneously increased to 100 mbar. In total, 21 g (0.458 mol) of ethanol distilled off. The reaction mixture was then distilled. After a first fraction which contained the unreacted starting materials, 107 g were obtained having a boiling point of 118° to 120° C. at 0.1 mbar. At a 76% conversion rate, the yield was approximately 90% of theory.

reactant | diethyl phenylphosphonite | 0.6 mol, 18.8 g | C1(=CC=CC=C1)P(OCC)OCC | C10H15O2P
reactant | p-cresol | 0.6 mol, 64.9 g | C1=CC(=CC=C1O)C | C7H8O
reactant | ethanol | 0.458 mol, 21 g | C(C)O | C2H6O
product | monoethyl mono-4-methylphenyl phenylphosphonite | yield was approximately 90% | C1(=CC=CC=C1)P(OCC)OC1=CC=C(C=C1)C | C15H17O2P
